US05756509
5,7-Dichloro-6-thien-3-yl-1,2,4-triazolo[1,5-a]pyrimidine (0.54 g, 0.002 mol) was dissolved in tetrahydrofuran (20 ml). A mixture of cyclopentylamine (0.2 g, 0.002 mol), tetrahydrofuran (2 ml) and triethylamine (0.25 g, 0.002 mol) was then added with stirring and the stirring continued for a further hour after the addition was complete. The solvent was then distilled off in vacuo and the residue treated with ethyl acetate and water (50 ml each). The organic phase was separated, dried with sodium sulphate, filtered and the solvent removed in vacuo. The residue was purified by chromatography on silica gel using 8:2 ethyl acetate: petroleum ether (300 ml) as eluant to give 0.45 g 5-chloro-6-thien-3yl-7-cyclopentylamino-1,2,4-triazolo[1,5-a]-pyrimidine as colourless crystals, m.pt. 78° C. Yield: 71% of theoretical.

reactant | 5,7-Dichloro-6-thien-3-yl-1,2,4-triazolo[1,5-a]pyrimidine | 0.002 mol, 0.54 g | ClC1=NC=2N(C(=C1C1=CSC=C1)Cl)N=CN2 | C9H4Cl2N4S
reactant | cyclopentylamine | 0.002 mol, 0.2 g | C1(CCCC1)N | C5H11N
reactant | triethylamine | 0.002 mol, 0.25 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-chloro-6-thien-3yl-7-cyclopentylamino-1,2,4-triazolo[1,5-a]-pyrimidine | 0.45 g, Yield: 71% | ClC1=NC=2N(C(=C1C1=CSC=C1)NC1CCCC1)N=CN2 | C14H14ClN5S
